US08076486B2
[4-(5-Amino-[1,3,4]oxadiazol-2-yl)-pyridin-3-yl]-(2-fluoro-4-iodo-phenyl)-amine
To a solution of 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide (1 g, 2.68 mmol) in DMSO (6 mL) were added 1,1-di-1H-imidazol-1-yl-methyleneamine (864 mg, 5.36 mmol). The reaction mixture was stirred at RT for 18 h. Quenching of the reaction by adding water (60 mL). A solid precipitated out. The solid was filtered, washed with water and cold methanol. Yield: white solid 1.0 g. LC-MS (Method A) [4.66 min; 398(M+1)].

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide | 2.68 mmol, 1 g | FC1=C(C=CC(=C1)I)NC1=C(C(=O)NN)C=CN=C1 | C12H10FIN4O
reactant | 1,1-di-1H-imidazol-1-yl-methyleneamine | 5.36 mmol, 864 mg | N1(C=NC=C1)C(N1C=NC=C1)=N | C7H7N5
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | [4-(5-Amino-[1,3,4]oxadiazol-2-yl)-pyridin-3-yl]-(2-fluoro-4-iodo-phenyl)-amine | NC1=NN=C(O1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F | C13H9FIN5O
